US05158959
a.) 2-(2-Oxo-propionyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid tertiary-butyl ester
A cooled and freshly distilled solution of 270 mg of pyruvic acid in 5 ml of chloroform is rapidly stirred into a solution of 700 mg of Tic-OBut and 630 mg of dicyclohexylcarbodiimide in 15 ml of anhydrous chloroform, the latter solution having been cooled to -50° C. The mixture is left for 16 hours in a deep-freezing cabinet (-20° C.), and the precipitated dicyclohexylurea is filtered off. The solution is washed with KHSO4 solution and then with KHCO3 solution, dried over Na2SO4, and concentrated in vacuo. The compound (oil) contains a little dicyclohexylurea, and was analyzed by chromatography over silica gel in the system CHCl3 /CH3OH 15:1.

reactant | pyruvic acid | 270 mg | C(C(=O)C)(=O)O | C3H4O3
reactant | Tic-OBut | 700 mg | N1[C@@H](CC2=CC=CC=C2C1)C(=O)OC(C)(C)C | C14H19NO2
reactant | dicyclohexylcarbodiimide | 630 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Oxo-propionyl)-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid tertiary-butyl ester | C(C)(C)(C)OC(=O)C1N(CC2=CC=CC=C2C1)C(C(C)=O)=O | C17H21NO4
